US08389717B2
a) [1-(2-Methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-methanol
A mixture of 1-fluoro-2-methoxy-4-nitro-benzene (1.0 g, 5.8 mmol), (1H-imidazol-4-yl)-methanol (602 mg, 6.1 mmol) and cesium carbonate (2.86 g, 8.8 mmol) in 40 ml of acetonitrile was refluxed overnight. The reaction mixture was concentrated in vacuo, diluted with water and extracted with ethyl acetate. Chromatography on Si—NH2 (Isolute) using ethyl acetate as an eluent gave the title compound as a yellowish solid.

reactant | 1-fluoro-2-methoxy-4-nitro-benzene | 5.8 mmol, 1.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | (1H-imidazol-4-yl)-methanol | 6.1 mmol, 602 mg | N1C=NC(=C1)CO | C4H6N2O
reactant | cesium carbonate | 8.8 mmol, 2.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | [1-(2-Methoxy-4-nitro-phenyl)-1H-imidazol-4-yl]-methanol | COC1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)CO | C11H11N3O4
